data/polar.json
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[c:1]12[cH:13][c:28]([B-:23]([F:6])([F:7])[F:8])[n:5]([CH3:2])[c:15]1[cH:16][cH:4][cH:3][cH:14]2.[cH:9]1[c:17]([CH+:31][c:18]2[cH:10][c:21]([F:26])[cH:30][c:22]([F:27])[cH:11]2)[cH:12][c:19]([F:24])[cH:29][c:20]1[F:25]>>[c:1]12[cH:14][cH:3][cH:4][cH:16][c:15]1[N+:5]([CH3:2])=[C:28]([B-:23]([F:6])([F:7])[F:8])[CH:13]2[CH:31]([c:17]1[cH:9][c:20]([F:25])[cH:29][c:19]([F:24])[cH:12]1)[c:18]1[cH:10][c:21]([F:26])[cH:30][c:22]([F:27])[cH:11]1", "epd": [["LP-/Pi+", [5], [28, 5]], ["Pi-/Sigma+", [13, 28], [13, 31]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[CH2:1]1[N:12]2[CH2:2][CH2:18][N:4]([CH2:47][c:8]3[cH:20][cH:30][cH:36][cH:31][cH:21]3)[c:34]3[c:10]2[c:33]([cH:13][n:11][cH:14]3)[N:3]([CH2:46][c:7]2[cH:19][cH:29][cH:35][cH:32][cH:22]2)[CH2:17]1.[S:5]([c:15]1[cH:38][cH:25][cH:23][cH:28][cH:41]1)([C:37]([S:6]([c:16]1[cH:39][cH:26][cH:24][cH:27][cH:40]1)(=[O:42])=[O:43])=[CH2:9])(=[O:44])=[O:45]>>[CH2:1]1[N+:12]2=[C:10]3[C:33](=[CH:13][N:11]([CH2:9][C-:37]([S:5]([c:15]4[cH:38][cH:25][cH:23][cH:28][cH:41]4)(=[O:44])=[O:45])[S:6]([c:16]4[cH:39][cH:26][cH:24][cH:27][cH:40]4)(=[O:42])=[O:43])[CH:14]=[C:34]3[N:4]([CH2:47][c:8]3[cH:20][cH:30][cH:36][cH:31][cH:21]3)[CH2:18][CH2:2]2)[N:3]([CH2:46][c:7]2[cH:19][cH:29][cH:35][cH:32][cH:22]2)[CH2:17]1", "epd": [["LP-/Pi+", [12], [10, 12]], ["Pi-/Pi+", [33, 10], [13, 33]], ["Pi-/Sigma+", [11, 13], [11, 9]], ["Pi-/LP+", [9, 37], [37]]]}
{"reaction_name": "Michael addition", "rsmi": "[O-:1][c:25]1[cH:16][c:7](=[O:17])[n:26]([CH3:5])[c:19](=[O:4])[n:27]1[CH3:18].[S:2]([c:8]1[cH:21][cH:12][cH:10][cH:15][cH:24]1)([C:20]([S:3]([c:9]1[cH:22][cH:13][cH:11][cH:14][cH:23]1)(=[O:28])=[O:29])=[CH2:6])(=[O:30])=[O:31]>>[O:1]=[C:25]1[CH:16]([CH2:6][C-:20]([S:2]([c:8]2[cH:21][cH:12][cH:10][cH:15][cH:24]2)(=[O:30])=[O:31])[S:3]([c:9]2[cH:22][cH:13][cH:11][cH:14][cH:23]2)(=[O:28])=[O:29])[C:7](=[O:17])[N:26]([CH3:5])[C:19](=[O:4])[N:27]1[CH3:18]", "epd": [["LP-/Pi+", [1], [25, 1]], ["Pi-/Sigma+", [16, 25], [16, 6]], ["Pi-/LP+", [6, 20], [20]]]}
{"reaction_name": "BF3-mediated acetal addition", "rsmi": "[CH2:1]([Si:7]([CH3:8])([CH3:9])[CH3:10])[CH:16]=[CH2:12].[CH3:2][O:14][CH:11]([CH3:13])[O:15][CH3:3].[F:4][B:17]([F:5])[F:6]>>[CH2:1]([CH:11]([CH3:13])[O:14][CH3:2])[CH:16]=[CH2:12].[CH3:3][O-:15].[F:4][B:17]([F:5])[F:6].[Si+:7]([CH3:8])([CH3:9])[CH3:10]", "epd": [["Sigma-/Sigma+", [1, 7], [1, 11]], ["Sigma-/LP+", [11, 15], [15]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:14]1[cH:2][n:12][c:17]2[c:24]([n+:9]([O-:5])[o:16][n:35]2)[cH:25]1)(=[O:27])[O-:29].[cH:3]1[cH:6][c:34]([B-:36]2([c:15]3[s:22][c:13]([CH3:26])[cH:18][cH:28]3)[O:10][c:37]3[cH:31][cH:33][cH:32][cH:30][c:38]3[O:11]2)[cH:7][cH:4][c:8]1[C:23]([F:19])([F:20])[F:21]>>[N+:1](=[C:14]1[CH:2]=[N:12][c:17]2[c:24]([n+:9]([O-:5])[o:16][n:35]2)[CH:25]1[c:15]1[s:22][c:13]([CH3:26])[cH:18][cH:28]1)([O-:27])[O-:29].[cH:3]1[cH:6][c:34](-[b-:36]2[o+:10][c:37]3[cH:31][cH:33][cH:32][cH:30][c:38]3[o:11]2)[cH:7][cH:4][c:8]1[C:23]([F:19])([F:20])[F:21]", "epd": [["LP-/Pi+", [10], [36, 10]], ["Sigma-/Sigma+", [15, 36], [15, 25]], ["Pi-/Pi+", [25, 14], [14, 1]], ["Pi-/LP+", [1, 27], [27]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:6][C:18]1=[C:20]([Cl:16])[C:9](=[O:12])[C:8](=[O:11])[C:21]([Cl:17])=[C:19]1[Cl:7].[O-:1][C:15](=[CH:2][c:5]1[cH:13][cH:3][cH:23][cH:4][cH:14]1)[O:22][CH2:24][CH3:10]>>[O:1]=[C:15]([CH:2]([c:5]1[cH:13][cH:3][cH:23][cH:4][cH:14]1)[C:8]1([O-:11])[C:9](=[O:12])[C:20]([Cl:16])=[C:18]([Cl:6])[C:19]([Cl:7])=[C:21]1[Cl:17])[O:22][CH2:24][CH3:10]", "epd": [["LP-/Pi+", [1], [15, 1]], ["Pi-/Sigma+", [2, 15], [2, 8]], ["Pi-/LP+", [8, 11], [11]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[CH3:2][CH:12]([CH3:3])[N+:17]1=[N:18][N:16]([CH:4]([CH3:19])[CH3:20])[C:21](=[CH2:15])[C-:6]1[C:10]([CH3:22])([CH3:23])[CH3:24].[c:1]1([N:25]=[C:7]=[S:11])[cH:27][cH:13][c:8]([N+:26](=[O:5])[O-:9])[cH:14][cH:28]1>>[c:1]1([N:25]=[C:7]([S-:11])[CH2:15][c:21]2[c:6]([C:10]([CH3:22])([CH3:23])[CH3:24])[n+:17]([CH:12]([CH3:2])[CH3:3])[n:18][n:16]2[CH:4]([CH3:19])[CH3:20])[cH:27][cH:13][c:8]([N+:26](=[O:5])[O-:9])[cH:14][cH:28]1", "epd": [["LP-/Pi+", [6], [21, 6]], ["Pi-/Sigma+", [15, 21], [15, 7]], ["Pi-/LP+", [7, 11], [11]]]}
{"reaction_name": "Carboxylation of organolithium reagents", "rsmi": "[C:3](=[O:4])=[O:5].[CH3:1][Li:2]>>[CH3:1][C:3](=[O:4])[O-:5].[Li+:2]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 3]], ["Pi-/LP+", [3, 4], [4]], ["LP-/Pi+", [4], [3, 4]], ["Pi-/LP+", [3, 5], [5]]]}
